US07247734B2
Synthesis of 4-[4-(4-Bromo-phenyl)-5-methyl-1H-pyrazol-3-yl]-6-chloro-benzene-1,3-diol
This compounds was synthesised in the same manner as described above. 3-(4-Bromo-phenyl)-6-chloro-7-hydroxy-2-methyl-chromen-4-one (0.5 g, 1.4 mmol), Hydrazine hydrate (5 ml). 4-[4-(4-Bromo-phenyl)-5-methyl-1H-pyrazol-3-yl]-6-chloro-benzene-1,3-diol precipitated out as a pale orange solid (0.08 g, 63.7%); Rf 0.48 cf SM 0.8 [ethyl acetate/petroleum ether 40–60° C. (80/20)].

reactant | 3-(4-Bromo-phenyl)-6-chloro-7-hydroxy-2-methyl-chromen-4-one | 1.4 mmol, 0.5 g | BrC1=CC=C(C=C1)C1=C(OC2=CC(=C(C=C2C1=O)Cl)O)C | C16H10BrClO3
reactant | Hydrazine hydrate | 5 ml | O.NN
product | 4-[4-(4-Bromo-phenyl)-5-methyl-1H-pyrazol-3-yl]-6-chloro-benzene-1,3-diol | BrC1=CC=C(C=C1)C=1C(=NNC1C)C1=C(C=C(C(=C1)Cl)O)O | C16H12BrClN2O2
